US07135600B2
(vi) 3-(3-{[7-({(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)heptyl]oxy}propyl)benzenesulfonamide
3-(3-{[7-(Benzyl{(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)heptyl]oxy}propyl)benzenesulfonamide (87.2 g) in methanol (800 ml) was hydrogenated over 5% Pd/C catalyst (28 g, 50% wet) at atmospheric pressure and ambient temperature. The catalyst was removed by filtration through a Hyflo pad and the filtrate concentrated in vacuo to give the title compound (64.4 g)—LC RT=3.46 min.

reactant | 3-(3-{[7-(Benzyl{(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)heptyl]oxy}propyl)benzenesulfonamide | 87.2 g | C(C1=CC=CC=C1)N(CCCCCCCOCCCC=1C=C(C=CC1)S(=O)(=O)N)C[C@@H](C1=CC(=C(C=C1)O)CO)O | C32H44N2O6S
solvent | methanol | 800 ml | CO | CH4O
catalyst | Pd/C | 28 g | [Pd] | Pd
product | 3-(3-{[7-({(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)heptyl]oxy}propyl)benzenesulfonamide | 64.4 g | O[C@@H](CNCCCCCCCOCCCC=1C=C(C=CC1)S(=O)(=O)N)C1=CC(=C(C=C1)O)CO | C25H38N2O6S
